US06680386B2
1.00 g of 4-chlorobenzoic acid and 1.45 g of dicyclohexylcarbodiimide (DCC) were solved in 30 ml of tetrahydrofuran, and the resulting solution was stirred at the room temperature for 2 hours. Subsequently, 1.35 g of diethyl aminomalonate hydrochloride and 0.65 g of triethylamine were added to 20 ml of tetrahydrofuran, and after stirring for about 20 minutes, the previously prepared solution was added to the this resulting solution. The mixed solution was then stirred at the room temperature for 2 hours to complete the reaction. After filtration of the solution and concentration of the filtrate, the concentrated filtrate was diluted with 50 ml of chloroform, washed with 20 ml of water twice and subjected to dry filtration to yield 1.72 g (86%) of diethyl 4-chlorobenzamidomalonate.

reactant | 4-chlorobenzoic acid | 1.00 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | dicyclohexylcarbodiimide | 1.45 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | diethyl aminomalonate hydrochloride | 1.35 g | Cl.NC(C(=O)OCC)C(=O)OCC
reactant | triethylamine | 0.65 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | diethyl 4-chlorobenzamidomalonate | 1.72 g, 86% | ClC1=CC=C(C(=O)NC(C(=O)OCC)C(=O)OCC)C=C1 | C14H16ClNO5
